US09376418B2
A mixture of trans-4-aminocyclohexanecarboxylic acid hydrochloride (2.00 g, 11.1 mmol), 5-bromo-2-fluoropyridine (2.29 mL, 22.3 mmol), potassium carbonate (3.08 g, 22.3 mmol), DIEA (3.89 mL, 22.3 mmol) in NMP (50 mL) was heated to 130° C. overnight. The reaction was cooled to room temperature, filtered through a pad of CELITE, and washed with NMP (50 mL). The reaction mixture was concentrated under reduced pressure. The residue was purified by silica gel chromatography (CH2Cl2/MeOH, 0-10%) to afford trans-4-[(5-bromopyridin-2-yl)amino]cyclohexanecarboxylic acid as a off-white solid. MS ESI calc'd for C12H16BrN2O2 [M+H]+ 299 and 301. found 299 and 301.

reactant | trans-4-aminocyclohexanecarboxylic acid hydrochloride | 11.1 mmol, 2.00 g | Cl.N[C@@H]1CC[C@H](CC1)C(=O)O
reactant | 5-bromo-2-fluoropyridine | 22.3 mmol, 2.29 mL | BrC=1C=CC(=NC1)F | C5H3BrFN
reactant | potassium carbonate | 22.3 mmol, 3.08 g | C([O-])([O-])=O.[K+].[K+]
reactant | DIEA | 22.3 mmol, 3.89 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | NMP | 50 mL | CN1CCCC1=O | C5H9NO
product | trans-4-[(5-bromopyridin-2-yl)amino]cyclohexanecarboxylic acid | BrC=1C=CC(=NC1)N[C@@H]1CC[C@H](CC1)C(=O)O | C12H15BrN2O2
